US07141586B2
2-(3-Ethylsulfanyl-phenoxy)-5-fluoro-nicotinic acid (150 mg, 0.51 mmol) was added to a solution of 1-aminomethyl-cyclohexanol (93 mg, 0.56 mmol) and triethylamine (0.21 ml, 1.5 mmol) in dimethylformamide (3 ml) under nitrogen at room temperature. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (108 mg, 0.56 mmol) followed by 1-hydroxybenzotriazole (76 mg, 0.56 mmol) were then added and the reaction was stirred at room temperature for 20 h. The mixture was concentrated under reduced pressure, partitioned between ethyl acetate (20 ml) and water (20 ml) and the organic phase was removed, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by flash column chromatography on a silica gel eluting with a solvent gradient of dichloromethane:methanol (99:1 changing to 98:2, by volume) to give 2-(3-ethylsulfanyl-phenoxy)-5-fluoro-N-(1-hydroxy-cyclohexylmethyl)-nicotinamide (86 mg) as an off-white solid.

reactant | 2-(3-Ethylsulfanyl-phenoxy)-5-fluoro-nicotinic acid | 0.51 mmol, 150 mg | C(C)SC=1C=C(OC2=C(C(=O)O)C=C(C=N2)F)C=CC1 | C14H12FNO3S
reactant | 1-aminomethyl-cyclohexanol | 0.56 mmol, 93 mg | NCC1(CCCCC1)O | C7H15NO
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.56 mmol, 108 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.56 mmol, 76 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(3-ethylsulfanyl-phenoxy)-5-fluoro-N-(1-hydroxy-cyclohexylmethyl)-nicotinamide | 86 mg | C(C)SC=1C=C(OC2=C(C(=O)NCC3(CCCCC3)O)C=C(C=N2)F)C=CC1 | C21H25FN2O3S
